US04742069
After boiling 2.5 g of 3-nitrobenzylideneacetoacetic acid methyl ester and 1.92 g of N-ethyl-4-amino-2-oxo-3-butenesulfonamide in a mixture of 10 ml of isopropanol and 5 ml of dimethylformamide for 6 hours there were obtained 2.2 g of 5-[(ethylsulfamoyl)acetyl]-1,4-dihydro-2-methyl-4-(3-nitrophenyl)nicotinic acid methyl ester of melting point 185°-187° (yellow crystalline powder from acetonitrile).

reactant | 3-nitrobenzylideneacetoacetic acid methyl ester | 2.5 g | COC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | N-ethyl-4-amino-2-oxo-3-butenesulfonamide | 1.92 g | C(C)NS(=O)(=O)CC(C=CN)=O | C6H12N2O3S
reactant | acetonitrile | C(C)#N | C2H3N
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-[(ethylsulfamoyl)acetyl]-1,4-dihydro-2-methyl-4-(3-nitrophenyl)nicotinic acid methyl ester | 2.2 g | COC(C1=C(NC=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NCC)(=O)=O)=O)C)=O | C18H21N3O7S
